US04742057
In ethanol (5 ml) was dissolved 4-[4-(3-indolyl)piperidinomethyl]-2-[(2R)-2-acetoxypropionylamino]thiazole (1 g) and under ice-cooling, 1N aqueous sodium hydroxide solution (2.34 ml) was added. The mixture was stirred for 1 hour at the same temperature and, then, for 1.5 hours at ambient temperature. Thereafter, 1N aqueous sodium hydroxide solution (0.7 ml) was further added and the mixture was stirred at ambient temperature for another 2 hours. The reaction mixture was then neutralized with 1N hydrochloric acid and concentrated under reduced pressure. The residue was extracted with a mixture of chloroform and methanol (10:1 V/V) and the extract was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and elution was carried out with a mixture of chloroform and methanol (10:1 V/V) to give 4-[4-(3-indolyl)piperidinomethyl]-2-(D-lactoylamino)thiazole (0.39 g).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-[(2R)-2-acetoxypropionylamino]thiazole | 1 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC([C@@H](C)OC(C)=O)=O | C22H26N4O3S
reactant | sodium hydroxide | 1N, 2.34 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 0.7 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-[4-(3-indolyl)piperidinomethyl]-2-(D-lactoylamino)thiazole | 0.39 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC([C@H](O)C)=O | C20H24N4O2S
